US06323235B1
(7-methoxy-benzofuran-3-yl)acetic acid
Methyl (7-methoxy-benzofuran-3-yl)acetate (1.12 g) was dissolved in methanol (20 ml). To this solution, 2N aqueous sodium hydroxide solution (5 ml) was added and the resulting solution was stirred at room temperature for 13.5 hours. To this solution, 1N hydrochloric acid (12 ml) was added and the reaction solution was poured into water layer (200 ml), followed by extraction twice with ethyl acetate (50 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. Sodium sulfate was removed by filtration and the solvent was removed under reduced pressure. The residue was recrystallized from hexane/chloroform to obtain the desired compound (0.95 g, yield: 91%).

reactant | Methyl (7-methoxy-benzofuran-3-yl)acetate | 1.12 g | COC1=CC=CC=2C(=COC21)CC(=O)OC | C12H12O4
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 12 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | (7-methoxy-benzofuran-3-yl)acetic acid | 0.95 g, yield: 91% | COC1=CC=CC=2C(=COC21)CC(=O)O | C11H10O4
